US07030123B2
Using the general method of selective demethylation described for Example 31 5-(3,5-dimethoxy-4-hydroxyphenoxy)-2-amino-1-carbamoylmethyl-1H-indole-3-carbonitrile (95 mg) was obtained as a beige solid from 5-(3,4,5-trimethoxyphenoxy)-2-amino-1-carbamoylmethyl-1H-indole-3-carbonitrile (150 mg; 0.37 mmol) after trituration with Et2O.

reactant | 5-(3,5-dimethoxy-4-hydroxyphenoxy)-2-amino-1-carbamoylmethyl-1H-indole-3-carbonitrile | 95 mg | COC=1C=C(OC=2C=C3C(=C(N(C3=CC2)CC(N)=O)N)C#N)C=C(C1O)OC | C19H18N4O5
reactant | Et2O | CCOCC | C4H10O
product | 5-(3,4,5-trimethoxyphenoxy)-2-amino-1-carbamoylmethyl-1H-indole-3-carbonitrile | 0.37 mmol, 150 mg | COC=1C=C(OC=2C=C3C(=C(N(C3=CC2)CC(N)=O)N)C#N)C=C(C1OC)OC | C20H20N4O5
